US07595403B2
The preparation of 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid cyclohexylamide
Following the synthetic procedure of 6a as described in Example 1, compound 6h (52% yield) was synthesized from benzo[d]isothiazol-3-one and cyclohexyl isocyanate as a white solid. mp 49-51° C; IR(CHCl3) 3287, 1711, 1660, 1533 cm−1; 1H-NMR (CDCl3) δ 1.20-1.65 (m, 6H), 1.65-1.80 (m, 2H), 1.95-2.05 (m, 2H), 3.80-3.94 (m, 1H), 7.42 (t, J=7.6 Hz, 1H), 7.58 (d, J=7.6 Hz, 1H), 7.69 (t, J=7.6 Hz, 1H), 8.00 (d, J=7.6 Hz, 1H, 8.86 (br s, 1H); ESIMS m/e 277 (M++1).

reactant | benzo[d]isothiazol-3-one | S1NC(C2=C1C=CC=C2)=O | C7H5NOS
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 3-Oxo-3H-benzo[d]isothiazole-2-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)N1SC2=C(C1=O)C=CC=C2 | C14H16N2O2S
